US03987052
In the manner given in Example 2, 9-(trifluoromethyl)-1,3-dihydro-5-[p-(propionylamino)phenyl]-2H-1,4-benzodiazepine-2-thione is heated in ethanol with formic acid hydrazide and the resulting product heated to 250° C. to give 10-(trifluoromethyl)-6-[p-(propionylamino)pheyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 9-(trifluoromethyl)-1,3-dihydro-5-[p-(propionylamino)phenyl]-2H-1,4-benzodiazepine-2-thione | FC(C1=CC=CC=2C(=NCC(NC21)=S)C2=CC=C(C=C2)NC(CC)=O)(F)F | C19H16F3N3OS
reactant | formic acid hydrazide | C(=O)NN | CH4N2O
solvent | ethanol | C(C)O | C2H6O
product | 10-(trifluoromethyl)-6-[p-(propionylamino)pheyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC(C1=CC=CC=2C(=NCC=3N(C21)C=NN3)C3=CC=C(C=C3)NC(CC)=O)(F)F | C20H16F3N5O
